US07135242B2
Synthesis of Fluorene Polymer (—Si(Me)2 Monomer Content 25%)
Under a nitrogen gas atmosphere, 990 mg (0.99 mmol) of bis(7-bromo-9,9-dioctylfluorenyl)dimethylsilane, 1.35 g (2.10 mmol) of 9,9-dioctylfluorene with boron structures introduced onto the 2 and 7 positions, 636 mg (1.16 mmol) of 2,7-dibromofluorene, 2.20 g (15.9 mmol) of potassium carbonate, 15 ml of THF and 8 ml of distilled water were added to a 100 ml three-necked flask equipped with a reflux condenser, and this mixture was heated to 60° C. After the dissolution of the substrate was confirmed, one full spatula of tetrakis(triphenylphosphine)palladium was added, and the mixture was heated and agitated for approximately 48 hours. 5 ml of toluene was further added, and the mixture was heated and refluxed for approximately 24 hours. When toluene was added following cooling and the solvent was distilled away as far as possible, a high-viscosity substance was obtained.

reactant | bis(7-bromo-9,9-dioctylfluorenyl)dimethylsilane | 0.99 mmol, 990 mg | BrC1=CC=C2C=3C=CC=C(C3C(C2=C1)(CCCCCCCC)CCCCCCCC)[Si](C)(C)C1=CC=CC=2C3=CC=C(C=C3C(C12)(CCCCCCCC)CCCCCCCC)Br | C60H86Br2Si
reactant | 9,9-dioctylfluorene | 2.10 mmol, 1.35 g | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCCCCC | C29H42
reactant | boron | [B] | B
reactant | 2,7-dibromofluorene | 1.16 mmol, 636 mg | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | potassium carbonate | 15.9 mmol, 2.20 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 8 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
